US07145012B2
Preparation of Intermediate 5-Bromo-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester (I-1b)
To a stirred solution of 1-(2-chloro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester I-1a (18.2 g) and phosphorus oxybromide (39 g) in 1,2-dichloroethane (200 ml) was added dimethylformamide (10.5 ml) over a 15-min period. The resulting mixture was heated at reflux for 3 hours, cooled, then an additional portion of phosphorus oxybromide (98 g) was added and refluxing was continued for 20 hours. The black reaction mixture was cooled, poured over ice (150 g) and stirred for 30 minutes. The mixture was extracted with dichloromethane (2×), the combined organic layers dried over magnesium sulfate and concentrated in vacuo to afford a dark oil. The oil was passed through a 200 g plug of silica gel, elueting with 30% hexanes:dichloromethane to afford the title compound (I-1b) as a yellow solid, 8.3 g.

reactant | 1-(2-chloro-phenyl)-5-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1)O)C1=C(C=CC=C1)Cl | C12H11ClN2O3
reactant | phosphorus oxybromide | 39 g | P(=O)(Br)(Br)Br | Br3OP
reactant | dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
reactant | phosphorus oxybromide | 98 g | P(=O)(Br)(Br)Br | Br3OP
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
product | 5-Bromo-1-(2-chloro-phenyl)-4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1C=O)Br)C1=C(C=CC=C1)Cl | C13H10BrClN2O3
